US05498609
To a suspension of 7-chloro-5-oxo-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1 g) in methanol (40 ml) are added molecular sieve 4A (2 g) and 40% methylamine methanol solution (10 ml), and the mixture is refluxed for 6 hours, and cooled. To the mixture is added with stirring sodium borohydride (0.13 g) at room temperature, and the mixture is stirred at the same temperature overnight. The reaction solution is filtered on Celite, and to the filtrate is added water, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and recrystallized from dichloromethane-diethyl ether to give 7-chloro-5-methylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.93 g) as white powder.

reactant | 7-chloro-5-oxo-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(S2)NC(C2=C(C=CC=C2)C)=O)=O)=O)C1 | C23H19ClN2O3S
reactant | methylamine methanol | 10 ml | CO.CN
reactant | sodium borohydride | 0.13 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 7-chloro-5-methylamino-1-[5-(2-methylbenzoylamino)thenoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.93 g | ClC=1C=CC2=C(C(CCCN2C(C2=CC=C(S2)NC(C2=C(C=CC=C2)C)=O)=O)NC)C1 | C24H24ClN3O2S
